US07300944B2
N-{2-tert-Butyl-5-[3-(3-cyano-phenyl)-3-hydroxy-cyclobutyl]-2H-pyrazol-3-yl}-2,2,2-trifluoro-acetamide
To a stirring solution of 3-bromobenzonitrile (12.6 g, 69.0 mmol) in 245 mL of THF at −78° C. (acetone/CO2 bath) was added a solution of n-BuLi (27.6 ml, 69 mmol, 2.5 M in hexanes). After 15 min, a solution of N-[2-tert-butyl-5-(3-oxo-cyclobutyl)-2H-pyrazol-3-yl]-2,2,2-trifluoro-acetamide (4.0 g, 11.5 mmol in 200 mL of THF) was added. After one hr, the reaction mixture was quenched cold by the addition of a saturated NH4Cl solution, and was then allowed to warm to room temperature. The reaction mixture was diluted with EtOAc, and the layers were separated. The organic layer was washed with brine, dried over MgSO4, filtered through a pad of diatomaceous earth, and concentrated under reduced pressure. Purification of this material was accomplished by MPLC using a Biotage® column, eluting with 25% EtOAc/hexanes. The product-containing fractions were collected and concentrated to yield the title compound (4.6 g, 98% yield). LRMS m/z (APCI+) 407 (M+1).

reactant | 3-bromobenzonitrile | 69.0 mmol, 12.6 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | acetone CO2 | CC(=O)C.C(=O)=O
reactant | n-BuLi | 69 mmol, 2.5 M, 27.6 ml | [Li]CCCC
reactant | N-[2-tert-butyl-5-(3-oxo-cyclobutyl)-2H-pyrazol-3-yl]-2,2,2-trifluoro-acetamide | 11.5 mmol, 200 mL, 4.0 g | C(C)(C)(C)N1N=C(C=C1NC(C(F)(F)F)=O)C1CC(C1)=O | C13H16F3N3O2
solvent | THF | 245 mL | C1CCOC1 | C4H8O
product | N-{2-tert-Butyl-5-[3-(3-cyano-phenyl)-3-hydroxy-cyclobutyl]-2H-pyrazol-3-yl}-2,2,2-trifluoro-acetamide | 4.6 g, 98% yield | C(C)(C)(C)N1N=C(C=C1NC(C(F)(F)F)=O)C1CC(C1)(O)C1=CC(=CC=C1)C#N | C20H21F3N4O2
